US09376417B2
A dry Schlenk vessel was initially charged with 185 mg [1 mmol] of 2,6-dimethylbromobenzene, 1056 mg [6.6 mmol] of diethyl malonate, 2.88 mg [0.005 mmol] of Pd(dba)2, 3.19 mg [0.011 mmol] of P(tert-Bu)3×HBF4, 207 mg [1.5 mmol] of dried K2CO3 and 150 mg [1.5 mmol] of KHCO3. The reaction vessel was three times evacuated and filled with nitrogen. This was followed by stirring at 160° C. until completion of conversion (8 hours). After cooling to room temperature, the reaction mixture was diluted with ethyl acetate. The resulting solution was washed successively with 20 ml each of water, saturated aq. NaHCO3 solution and saturated aqueous NaCl solution, dried over MgSO4, filtered and concentrated under reduced pressure. Chromatographic purification using silica gel (hexane/ethyl acetate) gave ethyl 2,6-dimethylphenylacetate in a yield of 81% of theory.

reactant | 2,6-dimethylbromobenzene | 1 mmol, 185 mg | CC1=C(C(=CC=C1)C)Br | C8H9Br
reactant | diethyl malonate | 6.6 mmol, 1056 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | P(tert-Bu)3 | 0.011 mmol, 3.19 mg | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | HBF4 | [H+].[B-](F)(F)(F)F
reactant | K2CO3 | 1.5 mmol, 207 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(dba)2 | 0.005 mmol, 2.88 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | ethyl 2,6-dimethylphenylacetate | yield of 81% | CC1=C(C(=CC=C1)C)CC(=O)OCC | C12H16O2
